US05250678
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-p-fluorocinnamyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (200 mg in 6 ml 33% methylene chloride in cyclohexane), p-fluorocinnamyl trichloroacetimidate (112 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (7 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 20 minutes the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×20 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) gave the title compound (33 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 6 ml, 200 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | p-fluorocinnamyl trichloroacetimidate | 112 μl | ClC(C(OCC=CC1=CC=C(C=C1)F)=N)(Cl)Cl | C11H9Cl3FNO
reactant | Trifluoromethanesulfonic acid | 7 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-p-fluorocinnamyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 33 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=C(C=C2)F)OC)C)C)O)=O | C52H76FNO12
